US07838675B2
To a solution of 1-pyridin-4-ylpiperazine (1.23 g) in dioxane (10 ml) was added sulfamide (0.746 g) and the reaction mixture was then heated at reflux in dioxane for 72 h. The reaction mixture was purified by loading onto SCX and eluting with (200 ml) MeOH/NH3. The eluent was then reduced in vacuo to yield 4-pyridin-4-ylpiperazine-1-sulfonamide as a white solid. A mixture of 4-pyridin-4-ylpiperazine-1-sulfonamide (0.260 g), tris(dibenzylideneacetone)dipalladium (0) (50 mg), 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (XPHOS) (50 mg), cesium carbonate (0.438 g) and 2-[[6-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-4-pyrimidinyl]oxy]-(2R)-propanoic acid ethyl ester ((the product of example 5 step i), 0.350 g) in dioxane (10 ml) was heated at reflux in a microwave at 100 C, 300 W, open vessel with cooling for 30 mins. The reaction mixture was then reduced in vacuo and the residue was partitioned between EtOAc (150 ml) and H2O (100 ml). The organics were separated and the aqueous layer was re-extracted with EtOAc (2×150 ml). Organics were combined, dried (MgSO4) and reduced in vacuo to give the subtitle compound as a yellow solid. Yield: 0.720 g

reactant | 1-pyridin-4-ylpiperazine | 1.23 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | sulfamide | 0.746 g | S(=O)(=O)(N)N | H4N2O2S
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-pyridin-4-ylpiperazine-1-sulfonamide | N1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)N | C9H14N4O2S
